2195-11-24 10:20:00 Physician Attending Progress Note
Chief Complaint: Hypoglycemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   68 y.o. man with Type II DM on oral agents presents with 3 day history
   of symptomatic hypoglycemia with fatigue.
   24 Hour Events:
 URINE CULTURE - At [**2195-11-23**] 08:48 PM
 EKG - At [**2195-11-23**] 10:05 PM
   On D10 drip overnight to maintain BS >70; had FS - 66 at 6 am for which
   he received an amp of D50; repeat FS 30's prior to rounds requiring a
   second amp D50
   K-6.1, no peaked T waves on ECG, given kaexalate
   Allergies:
   Ivp Dye
   Iodine Containing
   Unknown;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-11-23**] 04:30 PM
   Vancomycin - [**2195-11-23**] 07:16 PM
   Metronidazole - [**2195-11-23**] 10:55 PM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2195-11-24**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: denies cough/phlegm
   Genitourinary: Foley
   Heme / Lymph: Anemia, Coagulopathy
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-11-24**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 36.2
C (97.2
   HR: 80 (53 - 83) bpm
   BP: 188/79(116) {147/64(81) - 194/98(116)} mmHg
   RR: 21 (15 - 27) insp/min
   SpO2: 93%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 146.8 kg (admission): 146.8 kg
             Total In:
                                                                  1,363 mL
                                                                  1,408 mL
   PO:
                                                                    250 mL
                                                                    200 mL
   TF:
   IVF:
                                                                  1,113 mL
                                                                  1,108 mL
   Blood products:
   Total out:
                                                                    300 mL
                                                                  2,770 mL
   Urine:
                                                                    300 mL
                                                                  2,770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,063 mL
                                                                 -1,362 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///26/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: L > R base)
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.7 g/dL
   518 K/uL
   122 mg/dL
   1.0 mg/dL
   26 mEq/L
   5.2 mEq/L
   16 mg/dL
   99 mEq/L
   133 mEq/L
   30.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2195-11-23**]  08:05 PM
                            [**2195-11-24**]  03:58 AM
   WBC
   11.6
   9.5
   Hct
   29.1
   30.3
   Plt
   487
   518
   Cr
   1.1
   1.0
   Glucose
   83
   122
   Other labs: PT / PTT / INR:67.7/45.4/7.8, Differential-Neuts:78.8 %,
   Lymph:16.3 %, Mono:3.2 %, Eos:1.6 %, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.3 mg/dL
   Imaging: CXR:  small effusion left
   Microbiology: No new micro data
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB): Rate controlled with verapamil.  Holding
   digoxin, repeat level.
 HYPOGLYCEMIA:  Persistently hypoglycemic through the night requiring
   D10 drip and repeat D50.  Will start octreotide to counteract possible
   effect of bactrim.  continues to require frequent fingersticks so will
   need to stay in the ICU.
 TYPE II DIABETES: As above, continue to hold oral hyperglycemic
   agents.
 COAGULOPATHY:  Some improvement in INR holding coumadin, received 1
   mg vit K yesterday.
 ANEMIA:  Stable hct overnight.
 HYPERKALEMIA:  Down this morning after receiving kaexalate overnight.
   Repeat labs this afternoon to follow.
 IMPAIRED SKIN INTEGRITY/LEFT LOWER EXTREMITY ULCER:  On broad
   spectrum antibiotics as per podiatry recommendations.  WBC trending
   down.
 CARDIAC:  Small effusions on xray, decreased BS left base.  No
   symptoms suggestive of pulmnary infection.  Had been on diuretics in
   the past and these were topped in the past couple of months for unclear
   reasons.  Also his wife noted that his lower extremity edema in that
   time period as well.  Will check cardiac enzymes, repeat ECG.   Repeat
   echo to evaluate for new wall motion abnormalities.
 HYPERTENSION:  Consider holding lisinopril if hyperkalemia persists.
   ICU Care
   Nutrition:
   Comments: Diabetic diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-11-23**] 04:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2195-11-25 10:57:00 Physician Attending Progress Note
Chief Complaint: hypoglycemia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Off the D10 drip
   Episode of hyperglycemia last evening requiring insulin
   Increased SOB, CXR suggests right effusion, possible volume overload
   Started on lasix
   History obtained from Patient
   Allergies:
   Ivp Dye
   Iodine Containing
   Unknown;
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Metronidazole - [**2195-11-25**] 12:00 AM
   Ciprofloxacin - [**2195-11-25**] 06:16 AM
   Vancomycin - [**2195-11-25**] 08:02 AM
   Infusions:
   Other ICU medications:
   Dextrose 50% - [**2195-11-24**] 11:04 AM
   Hydralazine - [**2195-11-24**] 09:37 PM
   Omeprazole (Prilosec) - [**2195-11-25**] 08:03 AM
   Furosemide (Lasix) - [**2195-11-25**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Genitourinary: No(t) Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2195-11-25**] 10:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.3
C (97.3
   HR: 77 (57 - 77) bpm
   BP: 157/54(79) {133/45(63) - 198/80(99)} mmHg
   RR: 25 (19 - 28) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 146.8 kg (admission): 146.8 kg
             Total In:
                                                                  3,927 mL
                                                                    660 mL
   PO:
                                                                  1,640 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,992 mL
                                                                    300 mL
   Blood products:
   Total out:
                                                                  5,895 mL
                                                                  3,325 mL
   Urine:
                                                                  5,895 mL
                                                                  3,325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,968 mL
                                                                 -2,665 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///24/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: bases )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   484 K/uL
   141 mg/dL
   0.9 mg/dL
   24 mEq/L
   5.7 mEq/L
   13 mg/dL
   99 mEq/L
   133 mEq/L
   31.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2195-11-23**]  08:05 PM
                            [**2195-11-24**]  03:58 AM
                            [**2195-11-24**]  03:36 PM
                            [**2195-11-24**]  09:28 PM
                            [**2195-11-25**]  03:58 AM
   WBC
   11.6
   9.5
   12.3
   9.5
   Hct
   29.1
   30.3
   31.8
   31.0
   Plt
   487
   518
   589
   484
   Cr
   1.1
   1.0
   1.0
   0.9
   TropT
   0.01
   <0.01
   Glucose
   83
   122
   273
   141
   Other labs: PT / PTT / INR:34.3/41.1/3.5, CK / CKMB /
   Troponin-T:45/3/<0.01, Differential-Neuts:78.8 %, Lymph:16.3 %,
   Mono:3.2 %, Eos:1.6 %, Ca++:8.8 mg/dL, Mg++:1.6 mg/dL, PO4:3.5 mg/dL
   Imaging: CXR: CHF albeit improved
   Microbiology: No new micro data
   Assessment and Plan
 COAGULOPATHY:  Received another 1 mg IV vit K yesterday.  Still
   holding coumadin.  INR down to 3.5.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Denies pain this am.
 CONGESTIVE HEART FAILURE:  Responsive to lasix, CXR and exam
   improved.
 HYPERGLYCEMIA: While still on D10 albeit resolved now.
 HYPERKALEMIA:  Continue to hold lisinopril.  Getting lasix and
   kaexalate.  Renal function stable.
 ANEMIA:  Stable hct. GAS albeit no bowel movement.
 HYPERTENSION, BENIGN:  Continues on verapamil.
 ATRIAL FIBRILLATION (AFIB):  Rate controlled.  Holding coumadin given
   anticipated procedure.
 HYPOGLYCEMIA:  Unclear etiology albeit likely multifactorial -
   related to bactrim as well as confusion with meds and taking more than
   prescribed.
 IMPAIRED SKIN INTEGRITY/LE ULCER:  Continues antibiotics.  No new
   culture data. WBC coming down.   Anticipate going to the OR later today
   now that INR has decreased.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2195-11-23**] 04:30 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill